US08912177B2
Preparation of Compound 247: N-((1R,2R)-1-hydroxy-1-(4-methoxyphenyl)-3-(pyrrolidin-1-yl)propan-2-yl)-3-(p-tolyloxy)propanamide
A mixture of benzyl(1R,2R)-1-hydroxy-1-(4-methoxyphenyl)-3-(pyrrolidin-1-yl)propan-2-ylcarbamate (0.10 g, 0.26 mmol) and Pd/C (5%, 21 mg) in EtOH (1 mL)/HCl (1 M, 50 μL) was degassed and hydrogen gas was added. The mixture was hydrogenated at atmospheric pressure for two hours. The mixture was filtered over celite and the solvent was removed to dryness. The product was obtained as a colorless oil (63.5 mg, 85% yield).

reactant | benzyl(1R,2R)-1-hydroxy-1-(4-methoxyphenyl)-3-(pyrrolidin-1-yl)propan-2-ylcarbamate | 0.26 mmol, 0.10 g | O[C@@H]([C@@H](CN1CCCC1)NC(OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C22H28N2O4
reactant | HCl | 1 M, 50 μL | Cl | ClH
reactant | EtOH | 1 mL | CCO | C2H6O
catalyst | Pd/C | 21 mg | [Pd] | Pd
product | N-((1R,2R)-1-hydroxy-1-(4-methoxyphenyl)-3-(pyrrolidin-1-yl)propan-2-yl)-3-(p-tolyloxy)propanamide | 63.5 mg, 85% yield | O[C@@H]([C@@H](CN1CCCC1)NC(CCOC1=CC=C(C=C1)C)=O)C1=CC=C(C=C1)OC | C24H32N2O4
